US05972951
5-Acetyl-1'-methyl-2,3,6,7-tetrahydrospiro[thiopheno[2,3-f]indole-3,4'-piperidine]
A solution of tributyltin hydride (0.251 ml, 0.934 mmol) in benzene (10 ml) was added dropwise over 30 minutes to a stirred solution of 1-acetyl-2,3-dihydro-6-iodo-5-[(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)methylthio]-1H-indole (D51) (0.200 g, 0.467 mmol) and AIBN (5 mg) in benzene (20 ml) under argon at reflux. Reflux was continued for a further 0.75 h. The reaction mixture was then allowed to cool. Ethyl acetate (10 ml) was then added and the mixture washed with 2.5M HCl (3×10 ml). The combined aqueous washings were then basified with solid potassium carbonate and the resultant suspension was extracted with dichloromethane (3×15 ml). The combined organic extracts were then dried (Na2SO4) and evaporated under reduced pressure to give a pale yellow solid which was dried in vacuo (0.127 g). The solid was purified by prep. TLC (15% MeOH/CH2Cl2 as eluant) to give the title compound as a cream solid (0.047 g, 33%).

reactant | tributyltin hydride | 0.934 mmol, 0.251 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 1-acetyl-2,3-dihydro-6-iodo-5-[(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)methylthio]-1H-indole | 0.467 mmol, 0.200 g | C(C)(=O)N1CCC2=CC(=C(C=C12)I)SCC=1CCN(CC1)C | C17H21IN2OS
reactant | AIBN | 5 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 5-Acetyl-1'-methyl-2,3,6,7-tetrahydrospiro[thiopheno[2,3-f]indole-3,4'-piperidine] | 0.047 g, 33% | C(C)(=O)N1CCC=2C=C3C(=CC12)C1(CCN(CC1)C)CS3 | C17H22N2OS
